US08623889B2
Step 1: Ethyl 4-(bromomethyl)-3-(trifluoromethyl)benzoate
N-Bromosuccinimide (1.04 g, 5.83 mmol) and benzoyl peroxide (0.12 g, 0.49 mmol) were added to a solution of ethyl 4-methyl-3-(trifluoromethyl)benzoate (1.06 g, 4.56 mmol) in carbon tetrachloride (25 mL). The reaction mixture was heated at reflux overnight. After it was cooled to room temperature, it was diluted with dichloromethane (50 mL), and washed with water (20 mL). The aqueous layer was extracted with dichloromethane (20 mL). It was dried over Na2SO4 and concentrated. It was purified by prep-TLC (Hexanes:ethyl acetate=10:1) to give the product as an oil (0.60 g, 44%) 1H NMR (400 MHz, DMSO-d6) δ 8.31 (d, J=1.6 Hz, 1H), 8.20 (dd, J=4.8, 1.6 Hz, 1H), 7.68 (d, J=8.0 Hz, 1H), 4.64 (s, 1H), 4.40 (q, J=7.2 Hz, 2H), 1.40 (t, J=7.2 Hz, 3H).

reactant | N-Bromosuccinimide | 5.83 mmol, 1.04 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.49 mmol, 0.12 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | ethyl 4-methyl-3-(trifluoromethyl)benzoate | 4.56 mmol, 1.06 g | CC1=C(C=C(C(=O)OCC)C=C1)C(F)(F)F | C11H11F3O2
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Ethyl 4-(bromomethyl)-3-(trifluoromethyl)benzoate | 0.60 g, 44% | BrCC1=C(C=C(C(=O)OCC)C=C1)C(F)(F)F | C11H10BrF3O2
